US09227976B2
Step 1: 4-chloro-3-iodo-1-methyl-5-phenyl-1H-pyrazolo[3,4-c]pyridazine
Sodium hydride (60% in mineral oil, 674 mg, 16.9 mmol) was added to a suspension of 4-chloro-3-iodo-5-phenyl-1H-pyrazolo[3,4-c]pyridazine (3 g, 8.4 mmol) in dry DMF (42 mL) then methyl iodide (1.05 mL, 16.9 mmol) was added. The reaction mixture was stirred for 2 h. LiCl solution (4% in water) and ethyl acetate were added and the aqueous phase was extracted with ethyl acetate. The organic phases were combined, dried (MgSO4), filtered and evaporated. The residue was purified by column chromatography (silica gel, ethyl acetate/isohexane 0:1 to 1:1) yielding the intermediate as a solid (1.51 g).

reactant | Sodium hydride | 16.9 mmol, 674 mg | [H-].[Na+]
reactant | 4-chloro-3-iodo-5-phenyl-1H-pyrazolo[3,4-c]pyridazine | 8.4 mmol, 3 g | ClC1=C2C(=NN=C1C1=CC=CC=C1)NN=C2I | C11H6ClIN4
reactant | methyl iodide | 16.9 mmol, 1.05 mL | CI | CH3I
reactant | LiCl | [Li+].[Cl-]
solvent | DMF | 42 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-chloro-3-iodo-1-methyl-5-phenyl-1H-pyrazolo[3,4-c]pyridazine | 1.51 g | ClC1=C2C(=NN=C1C1=CC=CC=C1)N(N=C2I)C | C12H8ClIN4
